US06998409B2
A solution of 4.5 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile, 50 mg cyclopentadienyl cycloocta-1,5-diene cobalt (I) [cpCo(cod)] and 100 ml toluene were transferred into the reaction vessel in a protective gas/acetylene counterflow. After saturation with acetylene the reaction solution was irradiated for a period of 6 hours at a temperature of 25° C. with vigorous stirring. The reaction was interrupted by switching off the lamps and air supply, and the reaction solution was concentrated to low volume. The resulting crude product (5.47 g) was taken up in a mixture of water (8.7 ml) and concentrated hydrochloric acid (15 ml) and stirred overnight at room temperature. To recover the product it was washed with diethyl ether (3×100 ml), the phases separated, the aqueous phase alkalified with 32 percent by mass of sodium hydroxide solution, extracted with dichloromethane (3×100 ml), the combined extracts dried (Na2SO4), filtered and concentrated to low volume. 3.72 g 4-dimethylamino-4-pyridin-2-yl cyclohexanone were obtained.

reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 4.5 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | acetylene | C#C | C2H2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cyclopentadienyl cycloocta-1,5-diene cobalt (I) | 50 mg | [Co+].C1(C=CC=C1)C1=CCCC=CCC1
product | 4-dimethylamino-4-pyridin-2-yl cyclohexanone | 3.72 g | CN(C1(CCC(CC1)=O)C1=NC=CC=C1)C | C13H18N2O
